US05194440
1. 3,3-Dimethyl-1,2,5-thiadiazolidine-1,1-dioxide
To a refluxing solution of sulfamide (27.25 g, 283 mmol) in anhydrous pyridine (300 ml) was added dropwise 1,2-diamino-2-methylpropane (25 g, 283 mmol) over 2 hours. The resulting mixture was refluxed for further 16 hours under nitrogen before the solvent was removed under vacuum. The residue was triturated with hexane and the solid was collected by filtration and purified by flash chromatography (silica gel, dichloromethane-methanol 96:4) to give 36.1 g (85%) of the title compound as a white solid; mp 80°-83° C.; δH (360 MHz, DMSO-d6) 7.08 (1H, br t, --NH--), 6.77 (1H, s, --NH--), 3.04 (2H, d, J=6.9 Hz, --CH2 --), 1.24 (6H, s, --CMe2); m/z (EI) 151 (M+ +1).

reactant | sulfamide | 283 mmol, 27.25 g | S(=O)(=O)(N)N | H4N2O2S
reactant | 1,2-diamino-2-methylpropane | 283 mmol, 25 g | NCC(C)(C)N | C4H12N2
solvent | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
product | 3,3-Dimethyl-1,2,5-thiadiazolidine-1,1-dioxide | 36.1 g, 85% | CC1(NS(NC1)(=O)=O)C | C4H10N2O2S
